US08563575B2
A solution of N-(1,3-benzoxazol-2-yl)-N′-(3-nitropyridin-2-yl)benzene-1,4-diamine (0.330 g) in methanol (20 mL) was treated with palladium on carbon (0.060 g, 10% wt on activated carbon) and the mixture was hydrogenated (1 atm H2) for 1 h. After this time, the reaction mixture was filtered through diatomaceous earth. The filtrate was concentrated under reduced pressure to afford N2-[4-(1,3-benzoxazol-2-ylamino)phenyl]pyridine-2,3-diamine (0.294 g) as a yellow solid.

reactant | N-(1,3-benzoxazol-2-yl)-N′-(3-nitropyridin-2-yl)benzene-1,4-diamine | 0.330 g | O1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)NC2=NC=CC=C2[N+](=O)[O-] | C18H13N5O3
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium on carbon | 0.060 g | [Pd] | Pd
product | N2-[4-(1,3-benzoxazol-2-ylamino)phenyl]pyridine-2,3-diamine | 0.294 g | O1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)NC2=NC=CC=C2N | C18H15N5O
